### PR TITLE
[Merged by Bors] - feat(Finset): extra `toLeft`/`toRight` API

### PR DESCRIPTION
**Pull request by YaelDillies**
Add the API that I independently came up with in https://github.com/leanprover-community/mathlib4/pull/20433#issuecomment-2607541838.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by YaelDillies — COMMENTED** [review]
@fpvandoorn, what's your preferred way for me to fix the `simps` error in `Logic.Equiv.Set`?

**Review by b-mehta — COMMENTED** [review]
The finset/fintype changes look great to me

**Comment by fpvandoorn** [comment]
> @fpvandoorn, what's your preferred way for me to fix the `simps` error in `Logic.Equiv.Set`?

By making sure that `Logic.Equiv.Defs` imports a file containing `initialize_simps_projections Subtype (val → coe)`.
At least, I think that is the issue.
If that is the issue, please open an issue that `simps` should raise a warning when two conflicting configurations are found in different imports.

**Comment by fpvandoorn** [comment]
Or, going even further, we can disallow `@[simps]` at all, unless `initialize_simps_projections` has been called explicitly.

When I wrote `@[simps]`, I was under the impression that being more permissive is better: if the user wants to do X, it should try to do X as best as it can. However, I realize that in the current Mathlib with its many refactors, this is not desired: refactors often unintentionally change things, and `simps` should just complain whenever something changes.

Please open issues (or make fixes to `simps`) with how you want it to behave. 
In particular, the suggestion at the start of this message is easy: currently `getRawProjections` either retrieves projection information, or generates it. Splitting that up into two separate functions would do the trick.

**Comment by YaelDillies** [comment]
> By making sure that `Logic.Equiv.Defs` imports a file containing `initialize_simps_projections Subtype (val → coe)` (currently `Data.Subtype`).

Indeed that's the case.

> If that is the issue, please open an issue that `simps` should raise a warning when two conflicting configurations are found in different imports.

I see that you have opened #23041 for that, so I will refrain from doing so.

**Comment by fpvandoorn** [comment]
It's not quite the same, but I added it to that issue.

Do you think this would be good?

> Or, going even further, we can disallow `@[simps]` at all, unless `initialize_simps_projections` has been called explicitly.

File: Mathlib/Data/Fintype/Sum.lean [hunk 1]
```diff
@@ -24,10 +24,38 @@ instance (α : Type u) (β : Type v) [Fintype α] [Fintype β] : Fintype (α ⊕
...
-theorem Finset.univ_disjSum_univ {α β : Type*} [Fintype α] [Fintype β] :
-    univ.disjSum univ = (univ : Finset (α ⊕ β)) :=
-  rfl
+namespace Finset
+variable {α β : Type*}
+
+section left
+variable [Fintype α] {u : Finset (α ⊕ β)}
+
+@[simp] lemma toLeft_eq_univ : u.toLeft = univ ↔ univ.disjSum ∅ ⊆ u := by
```
Comment (b-mehta) [inline Mathlib/Data/Fintype/Sum.lean:33]: My instinct is that this is the wrong way round for simp: the right hand side is a fair bit more complex than the left. Similarly for the lemmas below.

Comment (YaelDillies) [reply Mathlib/Data/Fintype/Sum.lean:33]: I'd say "no" because `univ.disjSum ∅` is a fixed finset which might as well be given a name

Comment (b-mehta) [reply Mathlib/Data/Fintype/Sum.lean:33]: Ah, I see what's going on. These lemmas aren't generalised correctly, you instead want to be proving
```
@[simp] lemma disjSum_subset_iff :
    s.disjSum t ⊆ u ↔ s ⊆ u.toLeft ∧ t ⊆ u.toRight := by
  simp [Finset.subset_iff]

@[simp] lemma subset_disjSum_iff :
    u ⊆ s.disjSum t ↔ u.toLeft ⊆ s ∧ u.toRight ⊆ t := by
  simp [Finset.subset_iff]
```
then both of your lemmas are provable by simp in the opposite direction. Trust the universal property!

File: Mathlib/Data/Finset/Sum.lean [hunk 2]
```diff
@@ -4,7 +4,6 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Yaël Dillies, Bhavik Mehta
 -/
 import Mathlib.Data.Finset.Card
-import Mathlib.Data.Finset.Union
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sum.lean:7]: Why it `Union` a problematic import here? If we split `disjUnion` and `union` into separate files, would things become better?

**Review by eric-wieser — COMMENTED** [review]
Interestingly the new function seems to avoid stackoverflows where the previous one did not:
```lean
def foo : Finset (ℕ ⊕ ℕ) := (Finset.Icc 0 100000).map .inl

set_option trace.profiler true in
#eval foo.toLeft.card
```
succeeds only with this PR.

File: Mathlib/Data/Finset/Sum.lean [hunk 3]
```diff
@@ -110,27 +109,20 @@ forms a quasi-inverse to `disjSum`, in that it recovers its left input.
 
 See also `List.partitionMap`.
 -/
-def toLeft (s : Finset (α ⊕ β)) : Finset α :=
-  s.disjiUnion (Sum.elim singleton (fun _ => ∅)) <| by
-    simp [Set.PairwiseDisjoint, Set.Pairwise, Function.onFun, eq_comm]
+def toLeft (u : Finset (α ⊕ β)) : Finset α := (u.subtype _).map Equiv.sumIsLeft.toEmbedding
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sum.lean:112]: This is twice as fast
```suggestion
def toLeft (u : Finset (α ⊕ β)) : Finset α :=
  u.filterMap (Sum.elim some fun _ => none) (by aesop)
```
as it does one pass rather than two. Probably the `aesop` is hiding a lemma that could be written.

Comment (eric-wieser) [reply Mathlib/Data/Finset/Sum.lean:112]: Moved to #23079, since this change alone compiles.

File: Mathlib/Data/Finset/Sum.lean [hunk 4]
```diff
@@ -35,11 +35,9 @@ def disjSum : Finset (α ⊕ β) :=
 theorem val_disjSum : (s.disjSum t).1 = s.1.disjSum t.1 :=
   rfl
 
-@[simp]
 theorem empty_disjSum : (∅ : Finset α).disjSum t = t.map Embedding.inr :=
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sum.lean:38]: What's the motivation for dropping `simp` here?

Comment (YaelDillies) [reply Mathlib/Data/Finset/Sum.lean:38]: This makes
```
lemma toRight_eq_empty : u.toRight = ∅ ↔ u ⊆ univ.disjSum ∅ := by simp [subset_disjSum]
```
work. In general, I think `empty_disjSum` is a bad idea because it replaces "specifc map along a function with known inverse" (`(∅ : Finset α).disjSum ·)` with `Finset.toRight`) with "generic map with no known inverse" (`(·.map Embedding.inr)`)

Comment (b-mehta) [reply Mathlib/Data/Finset/Sum.lean:38]: `Finset.toRight` is the inverse of the right hand side too though - I'm not quite sure what you mean. I view this lemma as saying 0 + t = t, and so should obviously be a simp lemma. `(0 + ·)` is a specific map, and replacing it with generic `(·)` is a good thing!

Comment (YaelDillies) [reply Mathlib/Data/Finset/Sum.lean]: Okay, what about now?

File: Mathlib/Data/Finset/Sum.lean [hunk 5]
```diff
@@ -163,6 +160,22 @@ lemma disjSum_eq_iff : s.disjSum t = u ↔ s = u.toLeft ∧ t = u.toRight :=
...
+  simp [← disjSum_empty, disjSum_subset]
+
+@[simp] lemma map_disjSum_inr_subset : t.map .inr ⊆ u ↔ t ⊆ u.toRight := by
+  simp [← empty_disjSum, disjSum_subset]
+
+lemma subset_map_disjSum_inl : u ⊆ s.map .inl ↔ u.toLeft ⊆ s ∧ u.toRight = ∅ := by
+  simp [← disjSum_empty, subset_disjSum]
+
+lemma subset_map_disjSum_inr : u ⊆ t.map .inr ↔ u.toLeft = ∅ ∧ u.toRight ⊆ t := by
+  simp [← empty_disjSum, subset_disjSum]
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sum.lean:176]: These are misnamed as they no longer mention `disjSum`.

It's not clear to me that the first ones are stated in the right direction; it feels like `simp`ing `s ⊆ insert x t` to `s.erase x ⊆ t`

**Review by b-mehta — APPROVED** [review]
This is now very nice, thank you!

bors merge
